US04966835
To a solution containing 20 g of 6-chloro-3-(2-ethylhexyl)uracil thus obtained in 50 ml of dimethylformamide was added 11 g of potassium carbonate and then 12.1 g of methyl iodide was added thereto, and the mixture was stirred at room temperature for 1 hour. The reaction solution was filtered, the filtrate was poured into water and extracted twice with 100 ml of chloroform. The organic phase was washed with a saturated aqueous sodium chloride solution and dried with anhydrous magnesium sulfate. The chloroform was distilled off under reduced pressure to obtain 21 g of 6-chloro-3-(2-ethylhexyl)-1-methyluracil as an oily product.

reactant | 6-chloro-3-(2-ethylhexyl)uracil | 20 g | ClC1=CC(N(C(N1)=O)CC(CCCC)CC)=O | C12H19ClN2O2
reactant | potassium carbonate | 11 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 12.1 g | CI | CH3I
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 6-chloro-3-(2-ethylhexyl)-1-methyluracil | 21 g | ClC1=CC(N(C(N1C)=O)CC(CCCC)CC)=O | C13H21ClN2O2
